US07799825B2
Step 1: 1-(5-Bromo-2-thienyl)-2,2,2-trifluoroethanol (C1)
To a stirred solution of 5-bromothiophene-2-carboxaldehyde (1.0 equiv) in dry glyme at RT, was added CsF (0.1 eq.) followed by dropwise addition of TMSCF3 (1.2 eq.). The reaction mixture was stirred for 2 hr, then quenched by adding 3N HCl and stirred for 30 min. The organics were extracted with DCM and the organic extracts were combined and washed with brine and dried (Na2SO4). Evaporation of the solvent gave the crude product which was purified by flash column chromatography on silica using 1-10% EtOAc/Petroleum ether to yield the desired compound as an oil. 1H NMR (300 MHz, CDCl3, 300K) δ 7.00 (1H, d, J=3.7 Hz), 6.94 (1H, d, J=3.7 Hz), 5.18 (1H, q, J=6.2 Hz), 3.61 (1H, broad s).

reactant | 5-bromothiophene-2-carboxaldehyde | 1.0 equiv | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | CsF | 0.1 eq. | [F-].[Cs+]
reactant | TMSCF3 | 1.2 eq. | [Si](C)(C)(C)C(F)(F)F | C4H9F3Si
solvent | glyme | C(OC)COC | C4H10O2
product | 1-(5-Bromo-2-thienyl)-2,2,2-trifluoroethanol | BrC1=CC=C(S1)C(C(F)(F)F)O | C6H4BrF3OS
